US09126981B2
Synthesis of (9H-fluoren-9-yl)methyl(S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(isoquinolin-5-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-9)
According to the procedure described in the synthesis method of Compound III-5, (S)-1,1-diethoxy-N-(isoquinolin-5-ylmethyl)propan-2-amine (Compound IX-9)(1.98 g, 5.21 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid (2.4 g, 5.21 mmol) and the obtained residue was purified by Büch silica gel column chromatography (eluent: n-hexane:ethyl acetate=7:3) to obtain the title compound (2.92 g, 76%).

reactant | (S)-1,1-diethoxy-N-(isoquinolin-5-ylmethyl)propan-2-amine | 5.21 mmol, 1.98 g | C(C)OC([C@H](C)NCC1=C2C=CN=CC2=CC=C1)OCC | C17H24N2O2
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 5.21 mmol, 2.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (9H-fluoren-9-yl)methyl(S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(isoquinolin-5-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 2.92 g, 76% | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC1=C2C=CN=CC2=CC=C1)[C@H](C(OCC)OCC)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C45H51N3O6
